US05532240
To a mixture of 4 g of 5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine and 4 g of pyridine in 20 ml of chloroform was added 4.1 g of acetic anhydride under ice-cooling and the mixture was stirred at room temperature for an hour. The mixture was poured into water and extracted with chloroform. The extract was washed with water, dried and concentrated to give 4 g of 7-acetyl-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine as an oil.

reactant | 5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine | 4 g | S1C=CC2=C1CNCCC2 | C8H11NS
reactant | pyridine | 4 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 4.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-acetyl-5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine | 4 g | C(C)(=O)N1CC2=C(CCC1)C=CS2 | C10H13NOS
